US04996358
13.3 g of Nα -tert.butoxycarbonyl-Nε -benzyloxycarbonyl-L-lysine were dissolved in 100 ml of tetrahydrofuran and the solution was cooled to -20° C. 4.58 ml of isobutyl chloroformate and 4.48 ml of N-ethylmorpholine were then added. After stirring at -20° C. for 2 minutes 5.37 g of L-alanine ethyl ester hydrochloride and 4.48 ml of N-ethylmorpholine were added and the mixture was allowed to come to room temperature, whereafter it was stirred for 4 hours. The solvent was removed by evaporation and the residue was partitioned between 200 ml of ethyl acetate and 100 ml of water. The organic phase was washed in sequence twice with 25 ml of 10% citric acid solution each time, twice with 25 ml of saturated sodium hydrogen carbonate solution each time, once with 25 ml of water and once with 25 ml of saturated sodium chloride solution, dried and evaporated. The resulting gum crystallized from ethyl acetate/n-hexane. There were obtained 13 g (77%) of Nα -tert.butoxycarbonyl-Nε -benzyloxycarbonyl-L-lysyl-L-alanine ethyl ester. Rf (chloroform/methanol 9:1) 0.73.

reactant | Nα -tert.butoxycarbonyl-Nε -benzyloxycarbonyl-L-lysine | 13.3 g | C(C)(C)(C)OC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C19H28N2O6
reactant | isobutyl chloroformate | 4.58 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethylmorpholine | 4.48 ml | C(C)N1CCOCC1 | C6H13NO
reactant | L-alanine ethyl ester hydrochloride | 5.37 g | Cl.C(C)OC([C@@H](N)C)=O
reactant | N-ethylmorpholine | 4.48 ml | C(C)N1CCOCC1 | C6H13NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Nα -tert.butoxycarbonyl-Nε -benzyloxycarbonyl-L-lysyl-L-alanine ethyl ester | 13 g, 77% | C(C)OC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O)C)=O | C24H37N3O7
